US04824958
4,5-Dibromo-3-(1-methylethoxy)-1-(phenylmethyl)-1H-pyrrole-2-carboxylic acid.
Ethyl 4,5-dibromo-3-(1-methylethoxy)-1-(phenylmethyl)-1H-pyrrole-2-carboxylate (2.5 g, 0.006 moles) is dissolved in methanol (30 mL), and 2N NaOH (15 mL) is added. The mixture is heated under nitrogen to reflux. After 1 hour the mixture is stirred into ice water (350 mL) and acidified with phosphoric acid. The precipitate is filtered off, rinsed with cold dilute acid, ice water and dried to afford the pure product (2.2 g); mp 122° C. (dec).

reactant | Ethyl 4,5-dibromo-3-(1-methylethoxy)-1-(phenylmethyl)-1H-pyrrole-2-carboxylate | 0.006 moles, 2.5 g | BrC=1C(=C(N(C1Br)CC1=CC=CC=C1)C(=O)OCC)OC(C)C | C17H19Br2NO3
reactant | NaOH | 2N, 15 mL | [OH-].[Na+]
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | methanol | 30 mL | CO | CH4O
product | 4,5-Dibromo-3-(1-methylethoxy)-1-(phenylmethyl)-1H-pyrrole-2-carboxylic acid | 2.2 g | BrC=1C(=C(N(C1Br)CC1=CC=CC=C1)C(=O)O)OC(C)C | C15H15Br2NO3
